US06140051
Synthesis of 6-Methoxybenzothiazole-2-aldehyde:
2-Cyano-6-methoxybenzothiazole (10.0 g, 52.6 mmol) was suspended in a mixture of anhydrous ether (400 ml) and 2-propanol (36 ml). The suspension was cooled to about -30° C. by a dry-ice bath. Lithium aluminum hydride (7.0 g, 184.5 mmol) was added slowly while keeping the reaction temperature below -30° C. under argon atmosphere. The reaction mixture was stirred for 1 hr after the addition of lithium aluminum hydride and then poured slowly into a mixture of 2 N sulfuric acid (900 ml) and ethyl acetate (500 ml). After stirring for 10 min the organic layer was separated and the aqueous layer was extracted with ethyl acetate (200 ml). The combined organic phase was washed with water (200 ml) and then dried with anhydrous sodium sulfate (50 g) overnight. The dried solution was concentrated and then flash chromatographed on silica gel to give 3.1 g (30.5%) of a yellowish solid.

reactant | 2-Cyano-6-methoxybenzothiazole | 52.6 mmol, 10.0 g | C(#N)C=1SC2=C(N1)C=CC(=C2)OC | C9H6N2OS
reactant | ether | 400 ml | CCOCC | C4H10O
reactant | Lithium aluminum hydride | 184.5 mmol, 7.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 2 N, 900 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 36 ml | CC(C)O | C3H8O
product | 6-Methoxybenzothiazole-2-aldehyde | 3.1 g, 30.5% | COC1=CC2=C(N=C(S2)C=O)C=C1 | C9H7NO2S
